US03956374
Levo-4-(o-chlorobenzyl)-4-phenyl-5-oxo-7-(2,6-dichlorophenyl)-6-heptenoic Acid
2,6-Dichlorobenzaldehyde (4.38 g., 0.025 mole) in ethanol (10 ml.) is added to a solution of levo-4-(o-chlorobenzyl)-4-phenyl-5-oxohexanoic acid (4.89 g., 0.015 mole) and sodium hydroxide (0.8 g., 0.02 mole) in water (50 ml.). The resulting mixture is heated on a steam bath for 24 hours. The reaction solution is cooled to room temperature, diluted with water (200 ml.) and extracted with ether to remove the excess 2,6-dichlorobenzaldehyde. Ether is expelled from the aqueous phase by warming. The solution is cooled to room temperature, acidified with dilute hydrochloric acid (10 ml.), and the gummy oil which separates is extracted into ether. The ether extract is washed with brine solution, and dried (Na2SO4). Removal of the ether in vacuo, yields a yellowish residue which after recrystallization from a mixture of n-butyl chloride and petroleum ether (30°-60°C.) gives a white material, 1.75 g., m.p. 140.5°-143°C.

reactant | 2,6-Dichlorobenzaldehyde | 0.025 mole, 4.38 g | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
reactant | 4-(o-chlorobenzyl)-4-phenyl-5-oxohexanoic acid | 0.015 mole, 4.89 g | ClC1=C(CC(CCC(=O)O)(C(C)=O)C2=CC=CC=C2)C=CC=C1 | C19H19ClO3
reactant | sodium hydroxide | 0.02 mole, 0.8 g | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 4-(o-chlorobenzyl)-4-phenyl-5-oxo-7-(2,6-dichlorophenyl)-6-heptenoic Acid | ClC1=C(CC(CCC(=O)O)(C(C=CC2=C(C=CC=C2Cl)Cl)=O)C2=CC=CC=C2)C=CC=C1 | C26H21Cl3O3
